US07718645B2
Methyl {trans-4-[4-(4-amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6-(5H)-yl)phenyl]cyclohexyl}Acetate
A solution of methyl {trans-4-[4-(4-chloro-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6-(5H)-yl)phenyl]cyclohexyl}acetate, from Preparation 1, (5.29 g, 12.3 mmol) in 0.5M ammonia in p-dioxane (120 mL) was stirred at room temperature for 24 hours. The reaction mixture was concentrated in vacuo, diluted into EtOAc (1 L), washed with water, saturated aqueous brine, dried over sodium sulfate and concentrated in vacuo to afford the title compound as an off-white solid, 5.04 g. 1H NMR (400 MHz, CDCl3): δ 8.22 (s, 1H), 8.16 (br s, 1H), 7.23 (d, 2H), 7.16 (d, 2H), 5.75 (br s, 1H), 4.63 (m, 2H), 3.98 (m, 2H), 3.64 (s, 3H), 2.44 (m, 1H), 2.21 (m, 2H), 1.81 (m, 5H), 1.42 (m, 2H), 1.10 (m, 2H). m/z=411.3 (M+1). IC50 34.5 nM (range 30-40 nM).

reactant | methyl {trans-4-[4-(4-chloro-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6-(5H)-yl)phenyl]cyclohexyl}acetate | ClC1=NC=NC2=C1C(N(CCO2)C2=CC=C(C=C2)[C@@H]2CC[C@H](CC2)CC(=O)OC)=O | C22H24ClN3O4
reactant | ammonia | 0.5M | N | H3N
solvent | p-dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | Methyl {trans-4-[4-(4-amino-5-oxo-7,8-dihydropyrimido[5,4-f][1,4]oxazepin-6-(5H)-yl)phenyl]cyclohexyl}Acetate | NC1=NC=NC2=C1C(N(CCO2)C2=CC=C(C=C2)[C@@H]2CC[C@H](CC2)CC(=O)OC)=O | C22H26N4O4
